US08017610B2
(25a) 2-(Tritylthio)ethaneamine
Hydrochloric acid 2-aminoethanethiol (5.16 g, 45.4 mmol) was dissolved in dichloromethane (80 mL), and trifluoroacetic acid (7.0 mL, 90.8 mmol) and triphenylmethyl chloride (13.29 g, 47.7 mmol) were added, followed by stirring at room temperature for 1 hour. A 1N aqueous sodium hydroxide solution (150 mL) was added, and extraction was carried out with dichloromethane (500 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, methanol (100 mL) was added to the resulting residue, and the deposited by-product was removed by filtration. 1N hydrochloric acid (300 mL) was added to make the solution acidic, and the deposit was filtered off. After the by-product was washed with dichloromethane (50 mL) to remove it, the solution was made alkaline with a 1N aqueous sodium hydroxide solution, and extraction was carried out with dichloromethane (600 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, to afford the desired product (8.77 g, yield 60%) as a white solid.

reactant | Hydrochloric acid 2-aminoethanethiol | 45.4 mmol, 5.16 g | NCCS.Cl
reactant | trifluoroacetic acid | 90.8 mmol, 7.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triphenylmethyl chloride | 47.7 mmol, 13.29 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium hydroxide | 1N, 150 mL | [OH-].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-(Tritylthio)ethaneamine | 8.77 g, yield 60% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN | C21H21NS
